US07115602B2
7-(4-tert-Butylcyclohexyl)-2-cyclopropyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 464 mg (1.29 mmol) crude 4-tert-butyl-N-[1-(3-cyclopropyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclohexanecarboxamide, 200 mg (1.29 mmol) phosphoric trichloride are stirred at reflux for 3 hours, and proportionate amounts of the solvents are used. The resulting mixture is separated into the isomers via silica gel chromatography with eluent cyclohexane/ethylacetate 5/1, 2/1.

reactant | 4-tert-butyl-N-[1-(3-cyclopropyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclohexanecarboxamide | 1.29 mmol, 464 mg | C(C)(C)(C)C1CCC(CC1)C(=O)NC(CC)C=1C(NC(=NN1)C1CC1)=O | C20H32N4O2
reactant | phosphoric trichloride | 1.29 mmol, 200 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(4-tert-Butylcyclohexyl)-2-cyclopropyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C(C)(C)(C)C1CCC(CC1)C1=NC(=C2C(NC(=NN21)C2CC2)=O)CC | C20H30N4O
